US08114868B2
4-Bromo-1-(2-hydroxy-2-methyl-propyl)-1H-pyridin-2-one
A mixture of 4-bromo-1H-pyridin-2-one (0.25 g), 2,2-dimethyl-oxirane (0.26 mL), and potassium carbonate (0.40 g) in dimethylformamide (2.5 mL) was stirred under microwave irradiation at 120° C. for 30 min. After cooling to ambient temperature, the mixture was concentrated and purified by HPLC on reversed phase (acetonitrile/water) to afford the title compound. Yield: 0.34 g (96% of theory); Mass spectrum (ESI+): m/z=246/248 (Br) [M+H]+.

reactant | 4-bromo-1H-pyridin-2-one | 0.25 g | BrC1=CC(NC=C1)=O | C5H4BrNO
reactant | 2,2-dimethyl-oxirane | 0.26 mL | CC1(OC1)C | C4H8O
reactant | potassium carbonate | 0.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-1-(2-hydroxy-2-methyl-propyl)-1H-pyridin-2-one | BrC1=CC(N(C=C1)CC(C)(C)O)=O | C9H12BrNO2
